US04158659
N-(5-methyl-1,3,4-thiadiazol-2-yl)-1-methylethylamine
2-Amino-5-methyl-1,3,4-thiadiazole (23 g, 0.2 mole) in IPA (700 ml) and acetone (100 ml) was treated with sodium borohydride (20 g) in portions with stirring and cooling. The reaction mixture was then stirred and heated to reflux for 31/2 hours. The solution was then poured into water (3 L) and extracted with ether (× 3). The ethereal solution was dried, filtered and evaporated to give the title compound as a cream solid. m.p. 145° C.

reactant | 2-Amino-5-methyl-1,3,4-thiadiazole | 0.2 mole, 23 g | NC=1SC(=NN1)C | C3H5N3S
reactant | sodium borohydride | 20 g | [BH4-].[Na+]
reactant | water | 3 L | O | H2O
reactant | IPA | 700 ml | CC(C)O | C3H8O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | N-(5-methyl-1,3,4-thiadiazol-2-yl)-1-methylethylamine | CC1=NN=C(S1)NC(C)C | C6H11N3S
